US05030733
To 85 ml of a 1M solution of allyl magnesium bromide in diethyl ether cooled in ice bath was added dropwise, under nitrogen, a solution of 20 g of 10-phenoxydecanal in 200 ml of dry tetrahydrofuran. The mixture was poured into 400 ml of ice and 30 ml of 9M sulfuric acid was added. Upon standing the mixture formed aqueous and organic layers. The organic layer was stirred for 15 min with solid sodium bicarbonate and concentrated. The aqueous layer was extracted with diethyl ether (2×200 ml) and the extracts were combined with the concentrated organic layer. The combined organics were washed with 300 ml of water and 300 ml of a half-saturated aqueous solution of sodium chloride, filtered, and concentrated. The residue was flash chromatographed utilizing as successive eluents 5% diethyl ether/hexane, 10% diethyl ether/hexane, and 25% diethyl ether/hexane to give 18.51 g (42%) of 13-phenoxy-1-tridecen-4-ol as a solid, m.p. 50°-52°.

reactant | allyl magnesium bromide | C(C=C)[Mg]Br
reactant | 10-phenoxydecanal | 20 g | O(C1=CC=CC=C1)CCCCCCCCCC=O | C16H24O2
reactant | sulfuric acid | 9M, 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 13-phenoxy-1-tridecen-4-ol | 18.51 g, 42% | O(C1=CC=CC=C1)CCCCCCCCCC(CC=C)O | C19H30O2
